US05672697
9-[2-Deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N2 -isobutyrylguanine (50)
This compound is prepared from 9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N2 -isobutyrylguanine by the same procedure used for the preparation of N2 -isobutyryl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyguanosine.

reactant | 9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N2 -isobutyrylguanine | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=2N=C(NC(C2N=C1)=O)NC(C(C)C)=O | C14H18FN5O5
reactant | N2 isobutyryl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyguanosine | N#N.C(C(C)C)(=O)[C@@]1(C[C@H](O)[C@@H](COC(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)O1)N1C=NC=2C(=O)NC(N)=NC12
product | 9-[2-Deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N2 -isobutyrylguanine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C=3N=C(NC(C3N=C2)=O)NC(C(C)C)=O)F)O)C=C1 | C35H36FN5O7
